US04652573
C. 2-(2-hydroxyethyl) isoindoline
A solution of 2.85 g (0.0252 mol) of isoindoline, 2.99 g (0.0252 mol) of 2-bromoethanol and 5.09 g (0.05 mol) of triethylamine in 100 ml of dry toluene was refluxed for 12 hours. After cooling the mixture was filtered, concentrated in vacuo, dissolved in ethyl acetate and washed with water. The organic phase was dried over magnesium sulfate and concentrated in vacuo to yield 2.58 g (63%) of a dark red oil. NMR: (CDCl3) δ 2.78 (2H, t), 3.52 (2H, t), 3.82 (4H, s), 7.0 (4H, s).

reactant | isoindoline | 0.0252 mol, 2.85 g | C1NCC2=CC=CC=C12 | C8H9N
reactant | 2-bromoethanol | 0.0252 mol, 2.99 g | BrCCO | C2H5BrO
reactant | triethylamine | 0.05 mol, 5.09 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-hydroxyethyl) isoindoline | 2.58 g, 63% | OCCN1CC2=CC=CC=C2C1 | C10H13NO
